US05198449
N,α-Bis(4-fluorophenyl)-1-(2-naphthalenylmethyl)-4-piperidinemethanamine
A mixture of N,α-bis(4-fluorophenyl)-4-piperidinemethanamine (6.47 g, 0.0214 mol), 2-(bromomethyl)naphthalene (4.74 g, 0.0214 mol), and potassium carbonate (4.84 g, 0.035 mol) was heated 16 h at reflux in 400 mL of 1-butanol containing sodium iodide (0.2 g). The reaction mixture was concentrated to dryness. The residue was partitioned with 5% sodium hydroxide. The chloroform layer was dried (Na2SO4), filtered, and concentrated to give a dark brown oil. The oil was dissolved in methylene chloride and subjected to flash chromatography. Elution was accomplished using methylene chloride, 1% acetone-methylene chloride, 2% acetone-methylene chloride, 5% acetone-methylene chloride, and 10% acetone-methylene chloride. Fractions of similar purity were combined, and solvents were removed to give a viscous gum. This material was dried in vacuo 16 h at 100° C. in the presence of phosphorus pentoxide. This procedure provided 3.40 g (36%) of white glass-like material.

reactant | N,α-bis(4-fluorophenyl)-4-piperidinemethanamine | 0.0214 mol, 6.47 g | FC1=CC=C(C=C1)NC(C1CCNCC1)C1=CC=C(C=C1)F | C18H20F2N2
reactant | 2-(bromomethyl)naphthalene | 0.0214 mol, 4.74 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | potassium carbonate | 0.035 mol, 4.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.2 g | [I-].[Na+]
solvent | 1-butanol | 400 mL | C(CCC)O | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N,α-Bis(4-fluorophenyl)-1-(2-naphthalenylmethyl)-4-piperidinemethanamine | 3.40 g, 36% | FC1=CC=C(C=C1)NC(C1CCN(CC1)CC1=CC2=CC=CC=C2C=C1)C1=CC=C(C=C1)F | C29H28F2N2
